US07781436B2
N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-acetamide
[1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone, was treated with acetylchloride (1.05 eq) and triethylamine (1.05 eq) in CH2Cl2 under argon at RT for 2 h to give after purification by prep. HPLC the title compound.

reactant | [1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | NCCN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H22ClFN4O
reactant | acetylchloride | 1.05 eq | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 1.05 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-acetamide | ClC1=CC=C2C(=CN(C2=C1)CCNC(C)=O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C23H24ClFN4O2
